US07795282B2
Step A: N′-acetyl-2-(3-tert-butoxycarbonylaminopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothiohydrazide:
To a solution of 2-(3-tert-butoxycarbonylaminopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothiohydrazide (0.016 g, 0.032 mmol) in dichloromethane (1 mL) was added acetic anhydride (0.032 g, 0.32 mmol). After stirring for 1 hour at room temperature, the reaction mixture was concentrated under reduced pressure and chromatographed (10:1 hexanes/ethyl acetate) to provide the product.

reactant | 2-(3-tert-butoxycarbonylaminopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothiohydrazide | 0.032 mmol, 0.016 g | C(C)(C)(C)OC(=O)NCCCC1(SC(=NN1C(NN)=S)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C23H27F2N5O2S2
reactant | acetic anhydride | 0.32 mmol, 0.032 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N′-acetyl-2-(3-tert-butoxycarbonylaminopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothiohydrazide | C(C)(=O)NNC(=S)N1C(SC(=N1)C1=C(C=CC(=C1)F)F)(C1=CC=CC=C1)CCCNC(=O)OC(C)(C)C | C25H29F2N5O3S2
